US05071999
a) Ethyl 2-benzyl-8-methyl-2,7-diazabicyclo[3.3.0]-octane-7-carboxylate
37 g (0.2 mol) of ethyl N-allyl-N-(1-oxo-2-propyl)-carbamate are heated under reflux overnight in a water separator with 33 g (0.2 mol) of N-benzylglycine in 500 ml of toluene. The mixture is concentrated and the residue is distilled.

reactant | ethyl N-allyl-N-(1-oxo-2-propyl)-carbamate | 0.2 mol, 37 g | C(C=C)N(C(OCC)=O)C(C=O)C | C9H15NO3
reactant | water | O | H2O
reactant | N-benzylglycine | 0.2 mol, 33 g | C(C1=CC=CC=C1)NCC(=O)O | C9H11NO2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-benzyl-8-methyl-2,7-diazabicyclo[3.3.0]-octane-7-carboxylate | C(C1=CC=CC=C1)N1C2C(N(CC2CC1)C(=O)OCC)C | C17H24N2O2
